US08357679B2
D: 1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)-2-methoxyphenyl)-3-(pyridin-4-yl)urea
(4-Amino-3-methoxyphenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (0.407 mmol, 200 mg) and phenyl pyridin-4-ylcarbamate (0.610 mmol, 131 mg) were combined in dioxane (2 mL) and heated to 80° C. overnight in a reactivial. The reaction mixture was concentrated under vacuum and the residue was purified by column chromatography (dichloromethane—4% methanol/dichloromethane) to afford title compound (12.2 mg). MS (ESI) m/z 612.3 [M+H]+

reactant | (4-Amino-3-methoxyphenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.407 mmol, 200 mg | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)OC | C22H23F6N3O3
reactant | phenyl pyridin-4-ylcarbamate | 0.610 mmol, 131 mg | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)-2-methoxyphenyl)-3-(pyridin-4-yl)urea | 12.2 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=C(C=C2)NC(=O)NC2=CC=NC=C2)OC)C=C1)(F)F | C28H27F6N5O4
